US08809369B2
A mixture of 2-(3-methanesulfonyl-phenyl)-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid ethyl ester (3.3 g, 8.53 mmol), sodium hydroxide (3.41 g, 85.3 mmol), water (10 mL) in acetonitrile (30 mL) was stirred at 60° C. for 12 h. The mixture was neutralized with a 3 mol/L aqueous hydrochloric acid solution and extracted with ethyl acetate (2×50 mL), washed with water, dried over anhydrous sodium sulfate and then concentrated in vacuo to afford 2-(3-methanesulfonyl-phenyl)-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid (2.76 g, 90%) as a white solid which was used for next step without further purification: MS (ESI) M+1=360.3.

reactant | 2-(3-methanesulfonyl-phenyl)-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid ethyl ester | 8.53 mmol, 3.3 g | C(C)OC(=O)C=1C=C2C(CC(NC2=CC1)C1=CC(=CC=C1)S(=O)(=O)C)(C)C | C21H25NO4S
reactant | sodium hydroxide | 85.3 mmol, 3.41 g | [OH-].[Na+]
reactant | water | 10 mL | O | H2O
reactant | hydrochloric acid | 3 mol/L | Cl | ClH
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
product | 2-(3-methanesulfonyl-phenyl)-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid | 2.76 g, 90% | CS(=O)(=O)C=1C=C(C=CC1)C1NC2=CC=C(C=C2C(C1)(C)C)C(=O)O | C19H21NO4S
